US06358972B1
2-Oxo-5-Nitro-6-Methyl-1,2-Dihydropyridine
To a suspension of 2-amino-5-nitro-6-methylpyridine (40.24 g, 260 mmol) was added concentrated sulfuric acid (48 mL). The homogeneous solution was cooled to 0° C., and sodium nitrate (26.97 g, 390 mmol) dissolved in 120 mL of water was added. The reaction mixture was warmed to room temperature over 4 hours, then cooled to 0° C. The resulting ivory precipitate was collected, washed with cold water, and dried at 40° C. in vacuo overnight to provide 39.05 g (97%) of the title compound. EA calculated for C6H6N2O3: C, 46.76; H, 3.92; N, 18.18. Found: C, 46.49; H, 3.94; N, 17.99.

reactant | 2-amino-5-nitro-6-methylpyridine | 260 mmol, 40.24 g | NC1=NC(=C(C=C1)[N+](=O)[O-])C | C6H7N3O2
reactant | sulfuric acid | 48 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | 390 mmol, 26.97 g | [N+](=O)([O-])[O-].[Na+]
solvent | water | 120 mL | O | H2O
product | 2-Oxo-5-Nitro-6-Methyl-1,2-Dihydropyridine | 39.05 g, 97% | O=C1NC(=C(C=C1)[N+](=O)[O-])C | C6H6N2O3
